US04918080
1-(1-Methyl-1H-indazol-3-yl)ethanone
Methyl lithium (1.58M solution in ether; 13.8 ml) was added dropwise to a stirred, cold (-60°) solution of 1-methyl-1H-indazole-3-carboxylic acid (1.77 g) in dry THF (60 ml) under nitrogen and stirring was continued while warming to 0° over 2 h. The reaction mixture was quenched with saturated ammonium chloride solution (50 ml), and the layers were separated. The aqueous layer was further extracted with dichloromethane (2×50 ml) and the combined organic layers were washed with brine (2×50 ml), dried and evaporated in vacuo. The residual solid (1.8 g) was purified by FCC eluting with System B (1:4) to give the title compound (1.3 g), m.p. 86°-88°.

reactant | Methyl lithium | 1.58M, 13.8 ml | C[Li]
reactant | 1-methyl-1H-indazole-3-carboxylic acid | 1.77 g | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-(1-Methyl-1H-indazol-3-yl)ethanone | 1.3 g | CN1N=C(C2=CC=CC=C12)C(C)=O | C10H10N2O
